US09029409B2
A mixture of 4-bromo-6-chloro-2-methylpyridazin-3(2H)-one (8 g, 35.8 mmol, Preparation #28), styrylboronic acid (6.62 g, 44.8 mmol, Combiblocks), bis(triphenylphosphine)palladium(II) chloride (2.51 g, 3.58 mmol, Hindustan Platiniums) and potassium phosphate (11.40 g, 53.7 mmol, Aldrich) in aqueous dioxane (75%: 100 mL) was heated to about 85° C. for 6 h. The reaction mixture was cooled to RT and then concentrated on the rotovapor to 25 mL. The oily residue obtained was partitioned between EtOAc (100 mL) and water (50 mL). The layers were separated and then the aqueous layer was extracted with EtOAc (2×100 mL). The combined organic layers were dried over sodium sulphate and evaporated under reduced pressure. The residue obtained was purified by silica gel column chromatography by eluting with 10-20% ETOAc in hexane. The relevant fractions containing the product were combined and evaporated under reduced pressure to afford 6-chloro-2-methyl-4-styrylpyridazin-3(2H)-one 6 g (67.9%) as yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.878-7.838 (d, J=17 Hz, 1H), 7.620-7.560 (m, 2H) 7.412-7.344 (m, 3H) 7.279 (s, 1H) 7.177-7.136 (d, J=16 Hz, 1H) 3.809 (s, 3H); MS m/z: 247.1 (M+H)+

reactant | 4-bromo-6-chloro-2-methylpyridazin-3(2H)-one | 35.8 mmol, 8 g | BrC=1C(N(N=C(C1)Cl)C)=O | C5H4BrClN2O
reactant | styrylboronic acid | 44.8 mmol, 6.62 g | C(=CC1=CC=CC=C1)B(O)O | C8H9BO2
reactant | potassium phosphate | 53.7 mmol, 11.40 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 3.58 mmol, 2.51 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-chloro-2-methyl-4-styrylpyridazin-3(2H)-one | 6 g, 67.9% | ClC=1C=C(C(N(N1)C)=O)C=CC1=CC=CC=C1 | C13H11ClN2O
